US06455528B1
(5) N-(4-((4-Phenylpiperazin-1-yl)methyl)phenylmethyl)acetamide
A solution of N-(4-chloromethylphenylmethyl)acetamide (1.65 g), 1-phenylpiperazine (1.3 ml) and potassium carbonate (1.2 g) in dimethylformamide (50 ml) was stirred at 60° C. for 1 hr. The reaction mixture was poured into water (200 ml) and extracted with ethyl acetate (100 ml×3). The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a brown solid (4.4 g). The obtained solid was purified by silica gel column chromatography (developing solvent; chloroform:methanol=10:1) to give a pale-brown solid (3.45 g). The obtained solid was crystallized from ethyl acetate and the crystals were recrystallized from a mixture of ethyl acetate, ethanol and hexane to give the title compound (1.4 g) as white crystals, m.p.=135-136° C.

reactant | N-(4-chloromethylphenylmethyl)acetamide | 1.65 g | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
reactant | 1-phenylpiperazine | 1.3 ml | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(4-((4-Phenylpiperazin-1-yl)methyl)phenylmethyl)acetamide | 4.4 g | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C20H25N3O
